US07338960B2
2-(Trimethylsilyl)ethyl 4-{4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}butanoate
To a stirred solution of 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (62 mg, 0.20 mmol) and 2-(trimethylsilyl)ethyl 4-(4-hydroxyphenyl)butanoate (55 mg, 0.20 mmol) in dry THF (4 mL) at 0° C. (ice/water bath), under nitrogen, was added ADDP (102 mg, 0.40 mmol) followed by nBu3P (100 μL, 0.40 mmol), and the mixture stirred with slow warming to rt over 64.5 hours. The mixture was then concentrated under vacuum and the solid residue partitioned between DCM (5 mL) and water (5 mL) using a hydrophobic frit. The layers were separated and the aqueous layer re-extracted with DCM (5 mL) and the combined organic layer reduced. Purification by SPE (silica, 5 g Cartridge) eluting with cyclohexane:EtOAc (gradient 50:1 to 7.5:1) afforded the title compound (42 mg).

reactant | 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 0.20 mmol, 62 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
reactant | 2-(trimethylsilyl)ethyl 4-(4-hydroxyphenyl)butanoate | 0.20 mmol, 55 mg | OC1=CC=C(C=C1)CCCC(=O)OCC[Si](C)(C)C | C15H24O3Si
reactant | ADDP | 0.40 mmol, 102 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | nBu3P | 0.40 mmol, 100 μL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-(Trimethylsilyl)ethyl 4-{4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}butanoate | 42 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)CCCC(=O)OCC[Si](C)(C)C)(F)F | C32H40F3NO3Si
